US07566735B2
3-(4-bromophenyl)-N,N-dimethylpropanamide
A solution of 3-(4-bromophenyl)propionic acid (1.0 g, 4.37 mmol) in dichloromethane (30 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (707 mg, 4.36 mmol). This mixture was allowed to stir at room temperature for 15 minutes. Dimethylamine hydrochloride (360 mg, 4.42 mmol) was then added followed by diisopropylethylamine (0.76 ml, 4.4 mmol) and the stirring continued for 1 hour at room temperature. The reaction mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a colourless oil (972 mg, 87%).

reactant | 3-(4-bromophenyl)propionic acid | 4.37 mmol, 1.0 g | BrC1=CC=C(C=C1)CCC(=O)O | C9H9BrO2
reactant | 1,1′-carbonyldiimidazole | 4.36 mmol, 707 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Dimethylamine hydrochloride | 4.42 mmol, 360 mg | Cl.CNC
reactant | diisopropylethylamine | 4.4 mmol, 0.76 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(4-bromophenyl)-N,N-dimethylpropanamide | 972 mg, 87% | BrC1=CC=C(C=C1)CCC(=O)N(C)C | C11H14BrNO
